US09079866B2
racemic 3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-N-(2,2,2-trifluoro-1-methylethyl)biphenyl-2-sulfonamide
To a mixture of 2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine (32 mg, 0.09 mmol), racemic 2-bromo-N-(1,1,1-trifluoropropan-2-yl)benzenesulfonamide (38 mg, 0.11 mmol) and Pd(dppf)Cl2.CH2Cl2 (6 mg, 0.007 mmol) in a microwave vial were added acetonitrile (2.0 mL) and sat. NaHCO3 (2.0 mL). The mixture was sparged with nitrogen for 5 min and then the vial capped and heated at 110° Celsius for 90 min. After cooling, the reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (25 mL) and brine (25 mL). The organic layer was dried (Na2SO4) and concentrated to dryness. The crude product was purified by HPLC to give the title compound (28 mg, 64%). MS (ESI): mass calcd. C21H16F4N4O2S, 464.09; m/z found, 465.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.81 (s, 1H), 8.47 (s, 1H), 8.27-8.17 (m, 1H), 7.75-7.41 (m, 5H), 7.40-7.32 (m, 2H), 7.20 (d, J=12.6, 1H), 6.74-6.67 (m, 1H), 4.12-3.94 (m, 1H), 1.39-1.19 (m, 3H).

reactant | 2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.09 mmol, 32 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=C2C(=NC1)NC=C2 | C18H19BFN3O2
reactant | racemic 2-bromo-N-(1,1,1-trifluoropropan-2-yl)benzenesulfonamide | 0.11 mmol, 38 mg | BrC1=C(C=CC=C1)S(=O)(=O)NC(C(F)(F)F)C | C9H9BrF3NO2S
reactant | CH2Cl2 | 0.007 mmol, 6 mg | C(Cl)Cl | CH2Cl2
reactant | NaHCO3 | 2.0 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | racemic 3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)-N-(2,2,2-trifluoro-1-methylethyl)biphenyl-2-sulfonamide | 28 mg, 64% | FC=1C=C(C=CC1C=1N=C2C(=NC1)NC=C2)C=2C(=CC=CC2)S(=O)(=O)NC(C(F)(F)F)C | C21H16F4N4O2S
